US04388448
The Sorbyl Ether of the Polymer from Example 25
A mixture of 10 g of the polymer from Example 17, 2.2 ml of sorbyl alcohol (2,4-hexadienol) and 0.1 g of lithium metal in 100 ml of THF was refluxed under nitrogen for 18 hours. The mixture was then cooled and a 10-ml portion was poured into 100 ml of hexane containing 2 ml of ethanol to obtain the solid product. To further purify, it was redissolved in 10 ml of THF and suction filtered through a fine frit into 100 ml of water. The precipitated solid was collected and dried.

reactant | sorbyl alcohol | 2.2 ml | C(\C=C\C=C\C)O | C6H10O
reactant | lithium | 0.1 g | [Li] | Li
reactant | hexane | 100 ml | CCCCCC | C6H14
reactant | ethanol | C(C)O | C2H6O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | Sorbyl Ether | C(\C=C\C=C\C)OC\C=C\C=C\C | C12H18O
